US04837394
Methylbis(4-carbomethoxyphenyl)phenylphosphonium tetraphenylborate
A solution of 6.0 g (0.0115316 mol) of methylbis(4-carbomethoxyphenyl)phenylphosphonium iodide and 20 ml of methylene chloride was stirred rapidly with a solution of 3.95 g (0.0115316 mol) of sodium tetraphenylborate in 20 ml water for 2 hours. The organic layer was separated and washed with water, dried over magnesium sulfate, and concentrated.

reactant | methylbis(4-carbomethoxyphenyl)phenylphosphonium iodide | 0.0115316 mol, 6.0 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=C(C=C1)C(=O)OC)C1=CC=C(C=C1)C(=O)OC
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
reactant | sodium tetraphenylborate | 0.0115316 mol, 3.95 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
solvent | water | 20 ml | O | H2O
product | Methylbis(4-carbomethoxyphenyl)phenylphosphonium tetraphenylborate | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[P+](C1=CC=CC=C1)(C1=CC=C(C=C1)C(=O)OC)C1=CC=C(C=C1)C(=O)OC | InChI=1S/C24H20B.C23H22O4P/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-26-22(24)17-9-13-20(14-10-17)28(3,19-7-5-4-6-8-19)21-15-11-18(12-16-21)23(25)27-2/h1-20H;4-16H,1-3H3/q-1;+1
